US07273877B2
4-(2-Fluoro-4-iodoanilino)-6-oxo-1-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1,6-dihydro-3-pyridinecarboxamide (118 mg, 0.24 mmol) was dissolved in EtOH (8 mL), to which was added 1 M HCl (2 mL). This mixture was stirred at R.T. for 2 h., then diluted with water (80 mL). The resulting solution was extracted with EtOAc (3×40 mL), then the combined EtOAc fractions washed with water (2×50 mL) and brine (50 mL), then dried (Na2SO4). Removal of the solvent under reduced pressure afforded 4-(2-fluoro-4-iodoanilino)-1-(2-hydroxyethyl)-6-oxo-1,6-dihydro-3-pyridinecarboxamide as a white solid (95 mg, 97%), m.p. (EtOAc/MeOH) 212-215° C. 1H NMR [(CD3)2SO, 400 MHz] δ 10.45 (s, 1H), 8.27 (s, 1H), 7.94 (br s, 1H), 7.74 (dd, J=10.1, 1.7 Hz, 1H), 7.57 (br d, J=8.6 Hz, 1H), 7.48 (br s, 1H), 7.29 (t, J=8.5 Hz, 1H), 5.55 (s, 1H), 4.93 (t, J=5.3 Hz, 1H), 3.85 (t, J=5.5 Hz, 2H), 3.60 (q, J=5.4 Hz, 2H). Anal. Calcd for C14H13FIN3O3: C, 40.3; H, 3.1; N, 10.1. Found: C, 40.4; H, 2.9; N, 9.8.

reactant | 4-(2-Fluoro-4-iodoanilino)-6-oxo-1-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1,6-dihydro-3-pyridinecarboxamide | 0.24 mmol, 118 mg | FC1=C(NC=2C(=CN(C(C2)=O)CCOC2OCCCC2)C(=O)N)C=CC(=C1)I | C19H21FIN3O4
reactant | HCl | 1 M, 2 mL | Cl | ClH
solvent | EtOH | 8 mL | CCO | C2H6O
solvent | water | 80 mL | O | H2O
product | 4-(2-fluoro-4-iodoanilino)-1-(2-hydroxyethyl)-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 95 mg, 97% | FC1=C(NC=2C(=CN(C(C2)=O)CCO)C(=O)N)C=CC(=C1)I | C14H13FIN3O3
